US04781927
L-Aspartyl-D-serine-(2,2,5-trimethylcyclopentyl)ester
To a magnetically stirred solution of 0.1 mole 2,2,5-trimethylcyclopentyl-D-serinate in 100 ml dry DMF at 0° C. under an argon atmosphere is added 1 equivalent of N-Cbz-L-aspartic acid β-benzyl ester followed by addition of 1 equivalent each of Cu(II) chloride and dicyclohexylcarbodiimide. After 18 hours the mixture is poured into 200 ml 0.1N HCl and extracted with 300 ml ethyl acetate which is successively washed with saturated NaHCO3, H2O, and dried over MgSO4. Filtration and evaporation yields N-Cbz-β-benzyl-L-aspartyl-D-serine 2,2,5-trimethylcyclopentyl ester. 2 g N-Cbz-β-benzyl-L-aspartyl-D-serine 2,2,5-trimethylcyclopentyl ester in 50 ml dry CH3OH is hydrogenated in a Paar apparatus over 5% Pd/C. Upon completion of the reaction, the mixture is filtered through Celite and concentrated to dryness to yield the final product.

reactant | N-Cbz-β-benzyl-L-aspartyl-D-serine 2,2,5-trimethylcyclopentyl ester | 2 g | CC1(C(C(CC1)C)OC([C@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C(O)=O)CC1=CC=CC=C1)=O)CO)=O)C | C30H38N2O8
solvent | CH3OH | 50 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | L-Aspartyl-D-serine-(2,2,5-trimethylcyclopentyl)ester | CC1(C(C(CC1)C)OC([C@H](NC([C@@H](N)CC(O)=O)=O)CO)=O)C | C15H26N2O6
